US07569577B2
4.0M HCl in dioxane (6.0 ml) was added to a stirred suspension of tert-butyl (3S)-3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate (3.21 g) and 3-chloro-2-fluoroaniline (0.98 ml) in acetonitrile (50 mL). The reaction mixture was heated at 80° C. and left at this temperature overnight. The solvent was evaporated and the residue purified by flash column chromatography eluting with increasingly polar mixtures of methylene chloride/7N ammonia solution in methanol (97/3 to 95/5) to give N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride as a solid (3.20 g); 1H NMR Spectrum: (DMSO d6) 1.56 (m, 2H), 1.72 (m, 1H), 2.12 (m, 1H), 2.48-2.59 (m, 2H), 2.82 (m,1H), 3.20 (m, 1H), 3.95 (s, 3H), 4.49 (m, 1H), 7.26 (s, 1H), 7.28 (m, 1H), 7.47 (m, 1H), 7.53 (m, 1H), 7.81 (s, 1H), 8.38 (s, 1H), 9.63(s, 1H); Mass Spectrum: (M+H)+ 403.

reactant | HCl | 4.0M | Cl | ClH
reactant | tert-butyl (3S)-3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate | 3.21 g | ClC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C19H24ClN3O4
reactant | 3-chloro-2-fluoroaniline | 0.98 ml | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
solvent | dioxane | 6.0 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride | 3.20 g | Cl.Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1CNCCC1)F | InChI=1S/C20H20ClFN4O2.2ClH/c1-27-17-8-13-16(9-18(17)28-12-4-3-7-23-10-12)24-11-25-20(13)26-15-6-2-5-14(21)19(15)22;;/h2,5-6,8-9,11-12,23H,3-4,7,10H2,1H3,(H,24,25,26);2*1H/t12-;;/m0../s1
